US08445501B2
4-(2-Cyclopropylmethoxy-5-fluoro-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (1-acetyl-piperidin-4-yl)-amide
Starting from 4-(2-cyclopropylmethoxy-5-fluoro-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-4-ylamide hydrochloride (example A159) and acetyl chloride the title compound is obtained as colorless solid.

reactant | 4-(2-cyclopropylmethoxy-5-fluoro-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-4-ylamide hydrochloride | Cl.N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC(=C2)F)OCC2CC2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 4-(2-Cyclopropylmethoxy-5-fluoro-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (1-acetyl-piperidin-4-yl)-amide | C(C)(=O)N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC(=C2)F)OCC2CC2 | C24H26FN5O3
